US09227970B2
In a 5 ml round bottomed flask 6-cyclopropyl-3-methoxypyrazine-2-carboxylic acid (40 mg, 206 μmol), 2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-amine (47.6 mg, 227 μmol) and THF (1 ml) were mixed to form a solution. Then propylphosphonic anhydride in ethyl acetate 50% (328 mg, 301 μl, 515 μmol) and N,N-diisopropylethylamine (106 mg, 144 μl, 824 μmol) were added and the mixture heated to 70° C. for 2 hours. The reaction mixture was allowed to cool to room temperature, then 1.5 ml of acetonitrile:water (1:1) was added and the mixture stirred for 10 minutes. The precipitate formed was then filtered off, washed with 1 ml of acetonitrile:water (1:1) and 1 ml acetonitrile, then dried in vacuo to give 6-cyclopropyl-3-methoxy-N-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)pyrazine-2-carboxamide (45.5 mg, 57.2%) as a yellow solid. MS: m/z=387.2 (M+H+).

reactant | 6-cyclopropyl-3-methoxypyrazine-2-carboxylic acid | 206 μmol, 40 mg | C1(CC1)C1=CN=C(C(=N1)C(=O)O)OC | C9H10N2O3
reactant | 2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-amine | 227 μmol, 47.6 mg | C1(=CC=CC=C1)C1=NN2C(C=CC(=C2)N)=N1 | C12H10N4
reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | ethyl acetate | 515 μmol, 301 μl, 328 mg | C(C)(=O)OCC | C4H8O2
reactant | N,N-diisopropylethylamine | 824 μmol, 144 μl, 106 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile water | 1.5 ml | C(C)#N.O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 6-cyclopropyl-3-methoxy-N-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)pyrazine-2-carboxamide | 45.5 mg, 57.2% | C1(CC1)C1=CN=C(C(=N1)C(=O)NC=1C=CC=2N(C1)N=C(N2)C2=CC=CC=C2)OC | C21H18N6O2
